US08431554B2
50 mg of (22S,23S)-6α,22,23-trihydroxystigmast-4-en-3-one are treated with DDQ following the procedure described in Example 6. After purification by silica column chromatography (eluting solvent: hexane/ethyl acetate 8:2) of the crude product obtained, 35 mg of (22S,23S)-6α,22,23-trihydroxystigmasta-1,4-dien-3-one are isolated.

reactant | (22S,23S)-6α,22,23-trihydroxystigmast-4-en-3-one | 50 mg | O[C@H]1C[C@H]2[C@@H]3CC[C@H]([C@@H]([C@@H]([C@H]([C@@H](CC)C(C)C)O)O)C)[C@]3(CC[C@@H]2[C@]2(CCC(C=C12)=O)C)C | C29H48O4
reactant | DDQ | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
product | (22S,23S)-6α,22,23-trihydroxystigmasta-1,4-dien-3-one | 35 mg | O[C@H]1C[C@H]2[C@@H]3CC[C@H]([C@@H]([C@@H]([C@H]([C@@H](CC)C(C)C)O)O)C)[C@]3(CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)C | C29H46O4
